US08067445B2
Step 2: (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetonitrile
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-bromo-5-(trifluoromethyl)benzaldehyde and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetonitrile.

reactant | 2-bromo-5-(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetonitrile | COC1=C(C=C(C=C1)CC#N)B1OC(C(O1)(C)C)(C)C | C15H20BNO3
product | (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetonitrile | C(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC#N | C17H12F3NO2
